Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / lisinopril
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiography with deployment of a drug-eluting stent in 
the distal LCX and unsuccessful balloon angioplasty of OM1 
___
 
History of Present Illness:
Ms. ___ is a ___ woman with H/O CAD s/p DES x2 in 
the OM, known chronic total occlusion (CTO) of the proximal RCA 
on last angiogram in ___, tobacco use, and hypertension who 
transferred to ___ ED from ___ for ___. She 
initially presented there for progressive chest pain x2 days, 
substernal, radiating to the jaw. Although she attributed this 
to indigestion, the pain was similar to prior symptoms when she 
had her stent placed. She took sublingual nitroglycerin x2.  
Troponin at ___ was 0.07, and she started on heparin gtt 
and transferred to ___.

In the ED, nitroglycerin gtt was started for chest pain but 
resulted in hypotension to ___ and was stopped with return of 
chest pain. She subsequently received fentanyl for pain. 
Troponin-T 0.14 -> 0.21. ECG with no concerning ischemic 
changes. Cardiology was consulted recommended admission to 
cardiology. Transfer VS were: T 97.6 BP 149/99 HR 60 RR 18 Sao2 
95% on RA.

On arrival to the cardiology ward, patient reported ___ chest 
pain. There were no EKG changes, and she was taken urgently to 
the cardiac catheterization laboratory.
 
Past Medical History:
-CAD s/p DES x2 OM, known CTO of proximal RCA on last angiogram 
in ___
-Hypertension
-Hyperlipidemia
 
Social History:
___
Family History:
Father with MI age ___.
 
Physical Exam:
On admission
GENERAL: well-developed well nourished white woman in no 
apparent distress  
VS: T 97.6 BP 149/99 HR 60 RR 18 SaO2 95% on RA
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
mucous membranes moist
NECK: supple, no lymphadenopathy, no JVD
HEART: RRR, S1/S2; no murmurs, gallops, or rubs  
LUNGS: CTAB--no wheezes, rales, rhonchi; breathing comfortably 
without use of accessory muscles
ABDOMEN: not distended, non-tender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 1+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

At discharge
GENERAL: Well-developed, well-nourished female lying comfortably 
in bed in NAD
VITALS: T 97.8 BP 139/89 HR 64 RR 16 SaO2 97% on RA
HEENT: Normocephalic, atraumatic.
LUNGS: CTAB--o wheezes, rales, or rhonchi
HEART: RRR, normal S1/S2; no murmurs, rubs, or gallops
ABDOMEN: Soft, non-tender, not distended
EXTREMITIES:  No ___ edema
 
Pertinent Results:
___ 08:55PM BLOOD WBC-8.2 RBC-3.72* Hgb-12.3 Hct-36.2 
MCV-97 MCH-33.1* MCHC-34.0 RDW-13.6 RDWSD-48.8* Plt ___
___ 08:55PM BLOOD Neuts-58.5 ___ Monos-11.6 Eos-2.9 
Baso-0.9 Im ___ AbsNeut-4.78 AbsLymp-2.09 AbsMono-0.95* 
AbsEos-0.24 AbsBaso-0.07
___ 08:55PM BLOOD ___ PTT-150* ___

___ 08:55PM BLOOD Glucose-100 UreaN-9 Creat-0.6 Na-136 
K-4.3 Cl-99 HCO3-23 AnGap-14
___ 08:55PM BLOOD Calcium-9.0 Phos-3.1 Mg-1.9

___ 08:55PM BLOOD cTropnT-0.14*
___ 04:00AM BLOOD cTropnT-0.21*
___ 03:28AM BLOOD cTropnT-0.52*
___ 06:15AM BLOOD CK-MB-8 cTropnT-0.44*

DISCHARGE LABS
___ 06:15AM BLOOD WBC-8.6 RBC-3.42* Hgb-11.6 Hct-33.1* 
MCV-97 MCH-33.9* MCHC-35.0 RDW-13.9 RDWSD-49.3* Plt ___
___ 06:15AM BLOOD Neuts-62.2 ___ Monos-15.6* 
Eos-2.1 Baso-0.7 Im ___ AbsNeut-5.34 AbsLymp-1.64 
AbsMono-1.34* AbsEos-0.18 AbsBaso-0.06
___ 06:15AM BLOOD ___ PTT-27.1 ___
___ 06:15AM BLOOD Glucose-89 UreaN-11 Creat-0.6 Na-136 
K-4.3 Cl-100 HCO3-26 AnGap-10
___ 06:15AM BLOOD Calcium-8.8 Phos-4.2 Mg-1.8 Cholest-132

URINE CULTURE (Final ___: MIXED BACTERIAL FLORA ( >= 3 
COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION.

ECG ___ 8:38:14 ___
Sinus rhythm. Non-specific T wave abnormalities in leads III and 
aVF. Compared to the previous tracing of ___ inferior T wave 
changes are slighty more prominent.

Coronary angiogram ___
Coronary Anatomy
Dominance: Co-dominant
* Left Main Coronary Artery: The LMCA is normal
* Left Anterior Descending: The LAD has minor irregularities.
* Circumflex: The Circumflex had distal subtotal occlusion 
before the origin of a distal posterolateral branch and a very 
small LPDA. The ___ Marginal has prior stents which are 
occluded.
* Right Coronary Artery: The RCA is chronically totally 
occluded, the distal vessel filling from LAD collaterals 
Interventional Details: The left main was engaged with a ___ Fr 
EBU guide. A Choice PTXS wire was advanced into the OM1 with and 
OTW 2.0 balloon. The wire would not cross the occluded stents. 
Subsequently a Pilot ___ wire crossed partly through the 
occluded stents revealing a very small distal vessel and 
therefore no further attempts were made. A Prowater wire was 
then advanced down the LCX into the distal posterolateral branch 
and the occlusion dilated with a 2.0 balloon and then stented 
with a 2.25x15 Onyx deployed AT 8 ATM. There was no residual and 
normal flow into the distal branch and the small LPDA.
Impressions:
-Successful DES of distal LCX subtotal occlusion
-Probable chronic occlusion of prior stents in OM1
-Chronic RCA CTO collateralized from LAD
Recommendations
-Continue aspirin uninterrupted indefinitely
-Continue ticagrelor ___ year (reported previous adverse effect 
from clopidogrel)
 
Brief Hospital Course:
___ woman with H/O CAD s/p DES x2 OM, known chronic 
total occlusion (CTO) of the proximal RCA on last angiogram in 
___, ongoing tobacco use, and hypertension who transferred to 
___ ED from ___ for NSTEMI with rising troponin.

Acute Medical Issues
# NSTEMI: Patient presented to ___ with 2 days of 
progressive chest pain, found to have elevated troponins. She 
was started on a heparin drip for NSTEMI management and 
transferred to ___. At ___, a nitroglycerin gtt was started, 
however she became hypotensive with SBP in the ___. This was 
transitioned to fentanyl IV for pain relief. Her troponin-T 
peaked at 0.52 with CK-MB 8. Coronary angiogram on ___ showed 
CTO of the RCA with subtotal distal circumflex lesion treated 
with 1 DES. The prior stents in the OM were occluded with poor 
distal vessel, so it was not revascularizaed. She was started on 
aspirin and ticagrelor (given documented previous adverse 
reaction to clopidogrel). She was maintained on her home 
metoprolol succinate 100 mg daily, losartan 50 mg daily, and 
atorvastatin 80 mg daily.

Chronic medical issues
# Anxiety: patient with long standing history of anxiety 
maintained on paroxetine at home. Her home paroxetine dose was 
continued.

# Hypertension: continue losartan and metoprolol as above

Transitional Issues
[] DAPT: patient discharged on aspirin 81 mg daily and 
ticagrelor 90 mg bid. This should be continued for at least ___ 
year, at which point continuation may be considered. Daily doses 
of aspirin should not exceed 100 mg daily while on ticagrelor.
[] Encourage smoking cessation and started on a nicotine patch 
in the hospital
[] Discharge weight: 61.3 kg
[] Discharge Cr: 0.6
[] No health care proxy

___: 
NEW
Aspirin 81 mg PO DAILY 
Nicotine Patch 21 mg TD DAILY 
TiCAGRELOR 90 mg PO BID 

CHANGED 
Losartan Potassium 50 mg PO DAILY 

SAME 
Atorvastatin 80 mg PO QPM 
Metoprolol Succinate XL 100 mg PO DAILY 
PARoxetine 30 mg PO DAILY 
TraZODone 100 mg PO QHS:PRN Insomnia 
Vitamin D 1000 UNIT PO DAILY 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. PARoxetine 30 mg PO DAILY 
2. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Frequency is 
Unknown 
3. Losartan Potassium 75 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. TraZODone 100 mg PO QHS:PRN Insomnia 
6. Metoprolol Succinate XL 100 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour 1 patch daily Disp #*30 Patch 
Refills:*0 
3.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
4.  Losartan Potassium 50 mg PO DAILY 
RX *losartan 50 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Atorvastatin 80 mg PO QPM  
6.  Metoprolol Succinate XL 100 mg PO DAILY  
7.  PARoxetine 30 mg PO DAILY  
8.  TraZODone 100 mg PO QHS:PRN Insomnia  
9.  Vitamin D 1000 UNIT PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Non-ST segment elevation myocardial infarction
-Coronary artery disease with
-Chronic total occlusion of the right coronary artery
-In-stent restenosis chronic total occlusion of the ___ obtuse 
marginal branch
-Hypertension
-Hyperlipidemia
-Ongoing cigarette smoking
-Anxiety
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ from ___

WHY WAS I ADMITTED TO THE HOSTPIAL?
- You were admitted because you had chest pain that was caused 
by a heart attack.

WHAT HAPPENED WHILE I WAS ADMITTED?
- We did a cardiac catheterization, where we looked at all of 
the blood vessels of the heart and put a stent in the one that 
was blocked.
- We gave you medications to help prevent this in the future.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- You should follow up with your primary care physician as well 
as your cardiologist.
- You should take all of your medications as prescribed.
- Do not take more than 81mg of aspirin or any NSAIDS 
(ibuprofen, naproxen, Advil, Motrin, Aleve, etc.) as this may 
worsen the effect of your Brilinta (ticagrelor).
- Please try to quit smoking as use the nicotine patches as 
needed.

It was a pleasure caring for you!

Sincerely,
Your ___ team
 
Followup Instructions:
___